US06034066
Preparation of N,O-dimethyl(tert-butoxycarbonyl amino-L-leucyl)hydroxylamine
A solution of Boc-Leu-OH.H2O (80.3 mmol) and N-methyl morpholine (88 mmol) in THF (35 ml) was added to a pre cooled solution of isobutyl chloroformate (88 mmol) in THF (65 ml) under nitrogen at between -10 and -15° C. over 40 minutes. The reaction was stirred at -10° C. for 1 hour after which time N-methyl morpholine (88 mmol) was added followed by N,O-Dimethylhydroxylamine hydrochloride (88 mmol) portion wise between -10 and 0° C. The reaction was then stirred at -10° C. for 1 hour and then allowed to warm up to room temperature over night. The THF was then removed under vacuum and water (50 ml) and ethylacetate (200 ml) added. The organic layer was then washed with 0.1 M citric acid solution (4×50 ml), then saturated sodium bicarbonate (4×50 ml), dried over magnesium sulphate and then concentrated under vacuum to give the product.

reactant | Boc-Leu-OH.H2O | 80.3 mmol | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.O
reactant | N-methyl morpholine | 88 mmol | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 88 mmol | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | 88 mmol | CN1CCOCC1 | C5H11NO
reactant | N,O-Dimethylhydroxylamine hydrochloride | 88 mmol | Cl.CNOC
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | N,O-dimethyl(tert-butoxycarbonyl amino-L-leucyl)hydroxylamine | CN(OC)C([C@@H](N(N)C(=O)OC(C)(C)C)CC(C)C)=O | C13H27N3O4
